US07572820B2
2-Methyl-1-[(3-phenyl-5-isoxazolyl)methyl]-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized in a manner similar to Example 23 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 5-(chloromethyl)-3-phenylisoxazole:

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | 5-(chloromethyl)-3-phenylisoxazole | ClCC1=CC(=NO1)C1=CC=CC=C1 | C10H8ClNO
product | 2-Methyl-1-[(3-phenyl-5-isoxazolyl)methyl]-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1=CC(=NO1)C1=CC=CC=C1 | C21H14F3N3O
